US07977364B2
1-adamantyl(2-chloro-4,6-dihydroxyphenyl)methanone
Boron tribromide 1M in CH2Cl2 was added to a solution of 1-adamantyl-(2-chloro-4,6-dimethoxyphenyl)methanone (7 g, 21.0 mmoles) and CH2Cl2 (30 ml). The mixture was warmed overnight and then poured into water, extracted with ethyl acetate, dried over Na2SO4 and concentrated under vacuum to give the expected product (1.9 g, 30%).

reactant | Boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | 1-adamantyl-(2-chloro-4,6-dimethoxyphenyl)methanone | 21.0 mmoles, 7 g | C12(CC3CC(CC(C1)C3)C2)C(=O)C2=C(C=C(C=C2OC)OC)Cl | C19H23ClO3
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-adamantyl(2-chloro-4,6-dihydroxyphenyl)methanone | 1.9 g, 30% | C12(CC3CC(CC(C1)C3)C2)C(=O)C2=C(C=C(C=C2O)O)Cl | C17H19ClO3
